US07902400B2
To a mixture of 10 ml of THF and 0.60 g of 3,4-difluorobenzoyl chloride were added 0.37 g of 2-methylcyclopentylamine hydrochloride and 1.0 g of triethylamine, and the mixture obtained was stirred at room temperature for 3 hours. Then, ethyl acetate was added to the reaction mixture and filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.55 g of N-(2-methylcyclopentyl)-3,4-difluorobenzamide.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 3,4-difluorobenzoyl chloride | 0.60 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | 2-methylcyclopentylamine hydrochloride | 0.37 g | Cl.CC1C(CCC1)N
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-methylcyclopentyl)-3,4-difluorobenzamide | 0.55 g | CC1C(CCC1)NC(C1=CC(=C(C=C1)F)F)=O | C13H15F2NO
